US06452014B1
To a solution of 5-dimethoxymethyl-1-(4-methylphenyl)sulfonylindole (2.37 g, 6.87 mmol) in tetrahydrofuran (35 mL) was added n-butyllithium (1.6 mol/L in hexanes; 6.2 mL, 9.9 mmol) at −78° C. under nitrogen atmosphere, and the mixture was stirred for 2 h. Then dimethylformamide (1.1 mL, 14 mmol) was added, and the mixture was stirred for 20 min. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was combined, washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography (4:1 hexane/ethyl acetate) followed by trituration with hexane to afford 5-dimethoxymethyl-1-(4-methylphenyl)sulfonylindole-2-carboxaldehyde (1.89 g, 74%).

reactant | 5-dimethoxymethyl-1-(4-methylphenyl)sulfonylindole | 6.87 mmol, 2.37 g | COC(C=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)OC | C18H19NO4S
reactant | n-butyllithium | 9.9 mmol, 1.6 mol/L, 6.2 mL | C(CCC)[Li]
reactant | dimethylformamide | 14 mmol, 1.1 mL | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 5-dimethoxymethyl-1-(4-methylphenyl)sulfonylindole-2-carboxaldehyde | 1.89 g, 74% | COC(C=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C=O)OC | C19H19NO5S
